US05283244
In 80 ml of N,N-dimethylformamide were dissolved 4.00 g of 2-amino-6-chloro-3-nitropyridine and 15.69 g of imidazole, and the solution was stirred at 120° C. overnight. After spontaneous cooling to room temperature, 100 ml of water was added and the resulting crystals were collected by filtration. The crystals were rinsed with a small amount of water and dried under reduced pressure to provide 3.76 g of 2-amino-6-imidazolyl-3-nitropyridine. Physicochemical properties:

reactant | 2-amino-6-chloro-3-nitropyridine | 4.00 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | imidazole | 15.69 g | N1C=NC=C1 | C3H4N2
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-amino-6-imidazolyl-3-nitropyridine | 3.76 g | NC1=NC(=CC=C1[N+](=O)[O-])C=1NC=CN1 | C8H7N5O2
